US08604038B2
Step A: 2-Chloro-4-methyl-6-phenylpyrimidine
A mixture of 2,4-dichloro-6-methylpyrimidine (5 g, 30.7 mmol), benzeneboronic acid (3.74 g, 30.7 mmol), K2CO3 (12.72 g, 92 mmol) and Pd(PPh3)4 (1.06 g, 0.92 mmol) in toluene (150 ml) and methanol (35 ml) was degassed with nitrogen and heated at 90° C. overnight. The mixture was cooled and water (200 ml) added. The organic layer was separated and the aqueous extracted with EtOAc (×2). The organic layers were combined and dried over MgSO4, filtered and evaporated. The residue was purified by MPLC (Biotage Horizon: FLASH 40+M) eluent: 100% Hexanes (180 ml), gradient rising from 100% Hexanes to 20% EtOAc in Hexanes (1800 ml), then 20% EtOAc in Hexanes (1000 ml) to give 3 g (48%). 1H NMR (CDCl3): 2.61 (s, 3H), 7.52 (m, 4H), 8.08 (m, 2H).

reactant | 2,4-dichloro-6-methylpyrimidine | 30.7 mmol, 5 g | ClC1=NC(=CC(=N1)Cl)C | C5H4Cl2N2
reactant | benzeneboronic acid | 30.7 mmol, 3.74 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K2CO3 | 92 mmol, 12.72 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 35 ml | CO | CH4O
catalyst | Pd(PPh3)4 | 0.92 mmol, 1.06 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Chloro-4-methyl-6-phenylpyrimidine | ClC1=NC(=CC(=N1)C)C1=CC=CC=C1 | C11H9ClN2
